US04548932
A mixture of tert-butyl 3(S)-[8-tert-butoxycarbonylamino-1(S)-ethoxycarbonyloctyl]amino-4-oxo-2,3,4,5-tetrahydro-1,5-benzoxazepine-5-acetate (0.45 g) and 5N hydrogen chloride-ethyl acetate solution (10 ml) is allowed to stand for 3.5 hours at room temperature. The mixture is diluted with petroleum ether (80 ml) to precipitate colorless powder, which is collected and dried in vacuo to give 3(S)-[8-amino-1(S)-ethoxycarbonyloctyl]amino-4-oxo-2,3,4,5-tetrahydro-1,5-benzoxazepine-5-acetic acid.dihydrochloride (0.37 g).

reactant | tert-butyl 3(S)-[8-tert-butoxycarbonylamino-1(S)-ethoxycarbonyloctyl]amino-4-oxo-2,3,4,5-tetrahydro-1,5-benzoxazepine-5-acetate | 0.45 g | C(C)(C)(C)OC(=O)NCCCCCCC[C@@H](C(=O)OCC)N[C@H]1COC2=C(N(C1=O)CC(=O)OC(C)(C)C)C=CC=C2 | C31H49N3O8
reactant | hydrogen chloride-ethyl acetate | 5N, 10 ml | C(C)(=O)OCC.Cl
product | 3(S)-[8-amino-1(S)-ethoxycarbonyloctyl]amino-4-oxo-2,3,4,5-tetrahydro-1,5-benzoxazepine-5-acetic acid.dihydrochloride | 0.37 g | Cl.Cl.NCCCCCCC[C@@H](C(=O)OCC)N[C@H]1COC2=C(N(C1=O)CC(=O)O)C=CC=C2 | InChI=1S/C22H33N3O6.2ClH/c1-2-30-22(29)16(10-6-4-3-5-9-13-23)24-17-15-31-19-12-8-7-11-18(19)25(21(17)28)14-20(26)27;;/h7-8,11-12,16-17,24H,2-6,9-10,13-15,23H2,1H3,(H,26,27);2*1H/t16-,17-;;/m0../s1
